* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADuM3223C.asc
* Generated by LTspice 24.1.9 for Windows.
V1 VIA 0 PULSE(0 5 0 2n 2n 5u 10u)
V2 VIB 0 PULSE(5 0 0 2n 2n 5u 10u)
V3 N001 0 5
V5 VDDB 0 12
C3 VOA 0 2n
C5 VOB 0 2n
C1 0 N001 10n
V6 VDDA 0 12
X§U1 VIA VIB N001 0 0 0 VOB VDDB 0 VOA VDDA ADuM3223C
.tran 50u
.lib ADuM3223C.sub
.backanno
.end
